US08975254B2
d) 2-(1-(tert-butyldiphenylsilyloxy)ethyl)-N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 2-(1-(tert-butyldiphenylsilyloxy)ethyl)thiazole-4-carboxylic acid (326 mg, 0.792 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (105 mg, 0.403 mmol). After extraction, based on the LC-MS data, the product was estimated to be pure enough for the next step. LC-MS: [M+1]=655.30.

reactant | 2-(1-(tert-butyldiphenylsilyloxy)ethyl)thiazole-4-carboxylic acid | 0.792 mmol, 326 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C)C=1SC=C(N1)C(=O)O | C22H25NO3SSi
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.403 mmol, 105 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | 2-(1-(tert-butyldiphenylsilyloxy)ethyl)-N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C)C=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C35H36ClN5O2SSi
